US04196300
A. 2-Tetradecylacrylic acid
A 34.25 g sample of α-hydroxymethylpalmitic acid (0.119 mole) and 17 drops of phosphoric acid (85%) were placed in a distillation flask and the mixture heated to 245°-255° C. in an oil bath under vacuum. The product, 2-tetradecylacrylic acid, distilled over at 155°-160° C. at 0.10 mm Hg (24.80 g; 77% yield) and was crystallized from acetone, m.p. 53°-55° C.

reactant | α-hydroxymethylpalmitic acid | 0.119 mole | OCC(C(=O)O)CCCCCCCCCCCCCC | C17H34O3
catalyst | phosphoric acid | 17 drops | P(O)(O)(O)=O | H3O4P
product | 2-Tetradecylacrylic acid | 77% yield | C(CCCCCCCCCCCCC)C(C(=O)O)=C | C17H32O2
